US07544672B2
A solution of pent-4-ynyl methanesulfonate (1.05 g), N-phenyl piperazine (1.02 g) and diisoproylethylamine (1.2 mL) in THF (5 mL) was heated to reflux overnight. The mixture was concentrated, diluted with aq. NaOH 2M (10 mL) and extracted with DCM (2×50 mL). Drying (Na2SO4) and silica gel flash chromatography (EtOAc/hexane 2:1→2:0) afforded 1-(pent-4-ynyl)-4-phenylpiperazine (1.03 g).

reactant | pent-4-ynyl methanesulfonate | 1.05 g | CS(=O)(=O)OCCCC#C | C6H10O3S
reactant | N-phenyl piperazine | 1.02 g | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | diisoproylethylamine | 1.2 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 1-(pent-4-ynyl)-4-phenylpiperazine | 1.03 g | C(CCC#C)N1CCN(CC1)C1=CC=CC=C1 | C15H20N2
